US06716851B2
4-(2-Methyl-indol-5-ylamino)-2-(3-pyridinyl)-6-trifluoromethylpyrimidine
The title compound was prepared from 4-chloro-2-(3-pyridinyl)-6-trifluoromethylpyrimidine (50 mg, 0.192 mmol) and 5-amino-2-methylindole (41 mg, 0.288 mmol) similar to Example 190 and was isolated as a solid. 1H NMR (CDCl3): 9.66 (s, 1H), 8.75-8.72 (m, 2H), 8.08 (s, 1H), 7.46-7.34 (m, 4 H), 7.10 (d, J=8.4 Hz, 1H), 6.78 (s, 1H), 6.45 (s, 1H).

reactant | 4-chloro-2-(3-pyridinyl)-6-trifluoromethylpyrimidine | 0.192 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 5-amino-2-methylindole | 0.288 mmol, 41 mg | NC=1C=C2C=C(NC2=CC1)C | C9H10N2
product | 4-(2-Methyl-indol-5-ylamino)-2-(3-pyridinyl)-6-trifluoromethylpyrimidine | CC=1NC2=CC=C(C=C2C1)NC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C19H14F3N5
